US04584293
1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(6,7-dimethoxy-1,2,3,4-tetrahydronaphth-2-yl)-amino]-propane
Here, 1-[7,8-dimethoxy-1,3-dihydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(6,7-dimethoxy-1,2,3,4-tetrahydronaphth-2-yl)-amino]-propane (1.6 g, 0.0033 mol) is hydrogenated in glacial acetic acid (20 ml) in the presence of 10% palladium/charcoal (50 g) for 6 hours at 50° C. and at pressure (5 bar). The catalyst is removed by suction filtering, the glacial acetic acid is distilled off in vacuo and the residue is neutralized after the addition of water and potssium carbonate. The precipitate is suction filtered, washed with water to remove any salts and dried. The hydrochloride is precipitated from a solution in acetone using ethereal hydrohcloric acid. Yield: 1.2 g. Mp: 236°-238° C.

reactant | 1-[7,8-dimethoxy-1,3-dihydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(6,7-dimethoxy-1,2,3,4-tetrahydronaphth-2-yl)-amino]-propane | 0.0033 mol, 1.6 g | COC1=CC2=C(CC(N(C=C2)CCCN(C2CC3=CC(=C(C=C3CC2)OC)OC)C)=O)C=C1OC | C28H36N2O5
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
catalyst | palladium/charcoal | 50 g | [Pd] | Pd
product | 1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(6,7-dimethoxy-1,2,3,4-tetrahydronaphth-2-yl)-amino]-propane | COC1=CC2=C(CC(N(CC2)CCCN(C2CC3=CC(=C(C=C3CC2)OC)OC)C)=O)C=C1OC | C28H38N2O5
